US05998433
c) Synthesis of N,N-dimethyl-[6-(anthraquinone-2-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-(anthraquinone-2-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.227 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. After this mixture was concentrated, the resulting solid was recrystallized from diethyl ether-ethanol to yield the desired product.

reactant | N,N-Dimethyl-[6-(anthraquinone-2-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.227 g | CN(C)CC1=CC2=C(CN(CC2)C(=O)C2=CC=3C(C4=CC=CC=C4C(C3C=C2)=O)=O)O1 | C25H22N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[6-(anthraquinone-2-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(=O)C2=CC=3C(C4=CC=CC=C4C(C3C=C2)=O)=O)O1 | InChI=1S/C25H22N2O4.ClH/c1-26(2)13-17-11-15-9-10-27(14-22(15)31-17)25(30)16-7-8-20-21(12-16)24(29)19-6-4-3-5-18(19)23(20)28;/h3-8,11-12H,9-10,13-14H2,1-2H3;1H
